US07053255B2
(3) Synthesis of 9,10-bis(3-(9-phenanthryl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene
Under an atmosphere of argon, 1-(3-bromophenyl)naphthalene (6.5 g, 20 mmole, 2.8 eq) was dissolved into a mixed solvent composed of anhydrous toluene (25 ml) and anhydrous THF (25 ml) and the resultant solution was cooled at −25° C. in a dry ice/methanol bath. To the cooled solution, a hexane solution of n-butyllithium (1.50 mole/liter, 15 ml, 23 mmole, 1.1 eq) was added and the resultant solution was stirred at −20° C. for 1 hour. To the obtained mixture, anthraquinone (1.5 g, 7.2 mmole) was added and the resultant mixture was stirred at −20° C. for 1 hour and at the room temperature for 3 hours and left standing for one night. To the obtained reaction mixture, a saturated aqueous solution of ammonium chloride (20 ml) was added. The formed solid was separated by filtration and washed with water, methanol and acetone and a white solid (5.9 g, quant.) was obtained.

reactant | 1-(3-bromophenyl)naphthalene | 20 mmole, 6.5 g, 2.8 eq | BrC=1C=C(C=CC1)C1=CC=CC2=CC=CC=C12 | C16H11Br
reactant | n-butyllithium | 23 mmole, 1.50 mole/liter, 15 ml, 1.1 eq | C(CCC)[Li]
reactant | anthraquinone | 7.2 mmole, 1.5 g | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 9,10-bis(3-(9-phenanthryl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C=1C=C(C=CC1)C1(C2=CC=CC=C2C(C=2C=CC=CC12)(O)C1=CC(=CC=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)O | C54H36O2
